US07838560B2
6b) 4-Cyanobenzylsulfonyl chloride
5 g (22.83 mmol) of 4-cyanobenzylsulfonic acid, sodium salt, were moistened with approx. 20 ml of phosphoryl chloride after which 5.2 g (25.11 mmol) of PCl5 were added and the mixture was stirred for 15 min while being cooled with ice. The mixture was then heated at 80° C. for 4 h. After that, the mixture was poured onto ice and this fresh mixture was stirred vigorously for 30 min; the product then separated out on the ice as a white solid. After the ice had partially thawed, the mixture was filtered through a frit and the product/ice mixture which remained was washed several times with water. The crystals which remained were dried in vacuo and used directly for the next step in the synthesis.

reactant | 4-cyanobenzylsulfonic acid | 22.83 mmol, 5 g | C(#N)C1=CC=C(CS(=O)(=O)O)C=C1 | C8H7NO3S
reactant | sodium | [Na] | Na
reactant | PCl5 | 25.11 mmol, 5.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphoryl chloride | approx. 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Cyanobenzylsulfonyl chloride | C(#N)C1=CC=C(CS(=O)(=O)Cl)C=C1 | C8H6ClNO2S
